US08912208B2
A. Pyrazin-2-yl-(6-trifluoromethyl-pyridin-3-yl)-amine
To a solution of 5-amino-2-trifluoromethylpyridine (0.81 g) in 3 Ml toluene was added chloropyrazine (0.45 Ml, 1.0 equiv) via syringe. The homogeneous solution was heated to 95° C., then cooled to room temperature and concentrated in vacuo. Purification by silica gel chromatography (40% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 7.5 (s, 1 H) 7.6 (s, 1 H) 8.0 (s, 1 H) 8.2 (s, 1 H) 8.4 (s, 2 H) 8.8 (s, 1 H); (M+H)+ 241.1.

reactant | 5-amino-2-trifluoromethylpyridine | 0.81 g | NC=1C=CC(=NC1)C(F)(F)F | C6H5F3N2
reactant | chloropyrazine | 1.0 equiv | ClC1=NC=CN=C1 | C4H3ClN2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Pyrazin-2-yl-(6-trifluoromethyl-pyridin-3-yl)-amine | N1=C(C=NC=C1)NC=1C=NC(=CC1)C(F)(F)F | C10H7F3N4
